US09029499B2
4,8-Dioctoxybenzo[1,2-b:4,5-b′]dithiophene (9):
1.0 g (4.5 mmol) of benzo[1,2-b:4,5-b′]dithiophene-4,8-dione was mixed with 0.65 g (10 mmol) of zinc dust in a flask. Then, 4 ml of ethanol and 15 ml of 20% NaOH was added and the mixture was refluxed for 1 h. 4.3 mL octyl p-toluenesulfonate was added in portions with stirring until the color changed to red. The resulting precipitate was filtered, the filtrate was diluted with 100 mL water and extracted with 100 mL chloroform. The organic extraction was dried with anhydrous sodium sulfate and evaporated in vacuo. Column chromatography on silica gel using dichloromethane and hexanes mixed solvents yielded the pure title compound as a white solid (1.24 g, 62%). 1HNMR (CDCl3): δ0.88-0.91 (6H, t, J=7 Hz), 1.31-1.38 (16H, m), 1.54-1.58 (4H, m), 1.84-1.89 (4H, m), 4.26-4.29 (4H, J=7 Hz), 7.36-7.37 (2H, d, J=6 Hz), 7.47-7.48 (2H, d, J=6 Hz).

reactant | benzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 4.5 mmol, 1.0 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | NaOH | 15 ml | [OH-].[Na+]
reactant | octyl p-toluenesulfonate | 4.3 mL | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC)C | C15H24O3S
catalyst | zinc | 10 mmol, 0.65 g | [Zn] | Zn
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4,8-Dioctoxybenzo[1,2-b:4,5-b′]dithiophene | 1.24 g, 62% | C(CCCCCCC)OC1=C2C(SC=C2)=C(C2=C1SC=C2)OCCCCCCCC | C26H38O2S2
